US07790756B2
3,5-dinitro-benzonitrile (3 g, 16 mmol), 6-methylpyridin-3-ol (1.7 g, 16 mmol), and K2CO3 (4.3 g, 31 mmol) were dissolved in DMF and heated to 110° C. overnight. The reaction mixture was poured into water and the mixture was extracted with EtOAc. The combined organics were washed with brine, dried (Na2SO4), concentrated in vacuo and purified by silica gel chromatography to provide 3-(6-methylpyridin-3-yloxy)-5-nitrobenzonitrile (3 g, 76% yield). 1H NMR (400 MHz, DMSO) δ 8.50 (s, 1H), 8.38 (s, 1H), 8.08 (s, 1H), 8.01 (s, 1H), 7.59-7.56 (d, J=10 Hz, 1H), 7.38-7.36 (d, J=8.4 Hz, 1H), 1.98 (s, 3H); MS (ESI) m/z: 256.3 [M+H]+.

reactant | 3,5-dinitro-benzonitrile | 16 mmol, 3 g | [N+](=O)([O-])C=1C=C(C#N)C=C(C1)[N+](=O)[O-] | C7H3N3O4
reactant | 6-methylpyridin-3-ol | 16 mmol, 1.7 g | CC1=CC=C(C=N1)O | C6H7NO
reactant | K2CO3 | 31 mmol, 4.3 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-(6-methylpyridin-3-yloxy)-5-nitrobenzonitrile | 3 g, 76% yield | CC1=CC=C(C=N1)OC=1C=C(C#N)C=C(C1)[N+](=O)[O-] | C13H9N3O3
